US08530470B2
TBTU (176 mg, 0.55 mmol) was added in one portion to a stirred solution of 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (125 mg, 0.27 mmol) and DIPEA (0.286 mL, 1.64 mmol) at room temperature and stirred for 2.5 h. Thiomorpholine 1-oxide hydrochloride (85 mg, 0.55 mmol) was added to the reaction mixture and stirring was continued for 3 h. The reaction mixture was diluted with DCM, washed with water, brine, dried over MgSO4 and concentrated. The residue was purified by preparative HPLC. The fractions were evaporated to dryness, the residue was dissolved in DCM, dried over MgSO4 and concentrated. The remaining solid was triturated with diethyl ether, filtered, washed with diethyl ether and dried under vacuum at 50° C. to afford 8-[1-(3,5-difluorophenyl)pyrrolidin-2-yl]-2-morpholino-6-(1-oxo-1,4-thiazinane-4-carbonyl)chromen-4-one (87 mg, 57%) as a pale beige solid.

reactant | TBTU | 0.55 mmol, 176 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.27 mmol, 125 mg | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C24H22F2N2O5
reactant | DIPEA | 1.64 mmol, 0.286 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Thiomorpholine 1-oxide hydrochloride | 0.55 mmol, 85 mg | Cl.N1CCS(CC1)=O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 8-[1-(3,5-difluorophenyl)pyrrolidin-2-yl]-2-morpholino-6-(1-oxo-1,4-thiazinane-4-carbonyl)chromen-4-one | 87 mg, 57% | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1CCS(CC1)=O | C28H29F2N3O5S
